US04753934
4-Amino-4'-chloro-benzophenone
A hot solution of 13 g (0.05 mol) of 4'-chloro-4-nitrobenzophenone in 80 ml of ethanol was added in small portions, while stirring, to a hot solution of 53.5 g (0.24 mol) of tin(II)chloride dihydrate in 50 ml of concentrated hydrochloric acid, which was accompanied by a violent reaction. After all had been added, the mixture was heated on a steam bath for two hours and was then poured into an aqueous potassium hydroxide solution, while stirring. A precipitate was formed which was suction-filtered off and dissolved in boiling ethanol. The insoluble matter was filtered off, and the filtrate was allowed to cool. The light yellow crystals which precipitated were suction-filtered off.

reactant | 4'-chloro-4-nitrobenzophenone | 0.05 mol, 13 g | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H8ClNO3
reactant | tin(II)chloride dihydrate | 0.24 mol, 53.5 g | O.O.[Sn](Cl)Cl
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 4-Amino-4'-chloro-benzophenone | NC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H10ClNO
